US04230628
A solution of 5 g. of ethyl 4-(15-carbomethoxypentadecylamino)benzoate and 0.8 g. of potassium hydroxide in 50 ml. of 95% ethanol is stirred at 50° C. for 10 hours, diluted with 100 ml. of water and acidified with concentrated hydrochloric acid. The solid is collected by filtration, dried, and recrystallized from toluene to yield ethyl 4-(15-carboxypentadecylamino)benzoate as a white solid.

reactant | ethyl 4-(15-carbomethoxypentadecylamino)benzoate | C(=O)(OC)CCCCCCCCCCCCCCCNC1=CC=C(C(=O)OCC)C=C1 | C26H43NO4
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | ethyl 4-(15-carboxypentadecylamino)benzoate | C(=O)(O)CCCCCCCCCCCCCCCNC1=CC=C(C(=O)OCC)C=C1 | C25H41NO4
